US04866064
In 55 ml of methanol, 3.3 g of 2-heptylthio-6-methoxy-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one was dissolved. A dispersion of 19.4 g of OXONE® suspended in 70 ml of water was added to the methanol solution, and the resulting mixture was warmed to 65° C. and stirred for 1 hour. The residue obtained by the same procedure as in Preparation Example 7 was recrystallized from ethanol and thus 1.8 g of 2-heptanesulfonyl-6-methoxy-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one was obtained.

reactant | 2-heptylthio-6-methoxy-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one | 3.3 g | C(CCCCCC)SC1=NN2C(=NC=C(C2=O)OC)S1 | C13H19N3O2S2
reactant | OXONE | 19.4 g | OOS(=O)[O-].[K+]
reactant | water | 70 ml | O | H2O
solvent | methanol | 55 ml | CO | CH4O
product | 2-heptanesulfonyl-6-methoxy-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one | 1.8 g, Yield 51% | C(CCCCCC)S(=O)(=O)C1=NN2C(=NC=C(C2=O)OC)S1 | C13H19N3O4S2
